US08975254B2
d) (S)-3-acetyl-N-(1-(3-(4-cyano-3-nitrophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1H-pyrazole-5-carboxamide
(S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-nitrobenzonitrile (400 mg, 1.48 mmol) was coupled with 3-acetyl-1H-pyrazole-5-carboxylic acid (250 mg, 1.62 mmol) using the method of Example 34(d). Crude product was purified by CombiFlash (column: silica, eluent: 0-10% MeOH in DCM) to yield 295 mg (49%) of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 1.18 (d, 3H), 2.49 (s, 3H), 4.26-4.55 (m, 3H), 7.04 (d, 1H), 7.30 (s, 1H), 7.86 (d, 1H), 8.18 (d, 1H), 8.31 (d, 1H), 8.50 (d, 1H), 8.63 (s, 1H), 14.1 (bs, 1H).

reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-nitrobenzonitrile | 1.48 mmol, 400 mg | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)[N+](=O)[O-])C | C13H13N5O2
reactant | 3-acetyl-1H-pyrazole-5-carboxylic acid | 1.62 mmol, 250 mg | C(C)(=O)C1=NNC(=C1)C(=O)O | C6H6N2O3
product | (S)-3-acetyl-N-(1-(3-(4-cyano-3-nitrophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1H-pyrazole-5-carboxamide | 295 mg, 49% | C(C)(=O)C1=NNC(=C1)C(=O)N[C@H](CN1N=C(C=C1)C1=CC(=C(C=C1)C#N)[N+](=O)[O-])C | C19H17N7O4
